US05569664
To a stirred solution of 3.4 grams (0.019 mole) of (2-ethylbenzoxazol-5-yl)methanol in 25 mL of toluene was added 1.6 grams (0.006 mole) of phosphorous tribromide from a syringe. A precipitate formed immediately, and additional toluene was added to the reaction mixture to aid stirring. The reaction caused the reaction mixture temperature to rise to about 35° C. Upon completion of the addition, the reaction mixture stirred for an additional 20 minutes. The reaction mixture was then concentrated under reduced pressure to a residual solid. The solid was dissolved in 30 mL of dimethyl sulfoxide and, with stirring, 3.7 grams (0.029 mole) of N,N-diisopropylethylamine and 3.1 grams (0.019 mole) of ethyl piperidin-4-ylcarboxylate were added simultaneously from syringes. The resultant reaction caused the reaction mixture temperature to rise to about 40° C. The reaction mixture was allowed to cool to ambient temperature as it stirred for about 18 hours. The reaction mixture was poured into water and extracted with ethyl acetate and then with diethyl ether. The combined extracts were washed with an aqueous solution saturated with sodium bicarbonate, and then with an aqueous solution saturated with sodium chloride. The organic layer was concentrated under reduced pressure to a residual oil, which was subjected to column chromatography on silica gel, with ethyl acetate as the eluant. The product-containing fractions were combined and concentrated under reduced pressure, yielding 2.1 grams of ethyl N-(2-ethylbenzoxazol-5-ylmethyl)piperidin-4-ylcarboxylate. The NMR spectrum was consistent with the proposed structure.

reactant | (2-ethylbenzoxazol-5-yl)methanol | 0.019 mole, 3.4 grams | C(C)C=1OC2=C(N1)C=C(C=C2)CO | C10H11NO2
reactant | phosphorous tribromide | 0.006 mole, 1.6 grams | P(Br)(Br)Br | Br3P
reactant | N,N-diisopropylethylamine | 0.029 mole, 3.7 grams | C(C)(C)N(C(C)C)CC | C8H19N
reactant | ethyl piperidin-4-ylcarboxylate | 0.019 mole, 3.1 grams | N1CCC(CC1)C(=O)OCC | C8H15NO2
solvent | toluene | 25 mL | C1(=CC=CC=C1)C | C7H8
solvent | water | O | H2O
product | ethyl N-(2-ethylbenzoxazol-5-ylmethyl)piperidin-4-ylcarboxylate | 2.1 grams | C(C)C=1OC2=C(N1)C=C(C=C2)CN2CCC(CC2)C(=O)OCC | C18H24N2O3
